US08232300B2
(2) 5-[(6a-Methyl-5,6,6a,7,8,9-hexahydro-4H-phenalenyl)carbamoyl]pyridine-2-carboxylic acid
A solution of methyl 5-[(6a-methyl-5,6,6a,7,8,9-hexahydro-4H-phenalenyl)carbamoyl]pyridine-2-carboxylate (0.161 g) in ethanol (10 ml) was added with 2 N aqueous sodium hydroxide (1 ml), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was made acidic with 2 N aqueous hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from ethanol-chloroform to obtain the title compound (0.149 g, yield: 96%) as pale yellow powdery crystals (melting point: 199-200° C.).

reactant | methyl 5-[(6a-methyl-5,6,6a,7,8,9-hexahydro-4H-phenalenyl)carbamoyl]pyridine-2-carboxylate | 0.161 g | CC12CCCC3=CC=C(C(CCC1)=C32)NC(=O)C=3C=CC(=NC3)C(=O)OC | C22H24N2O3
reactant | sodium hydroxide | 2 N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[(6a-Methyl-5,6,6a,7,8,9-hexahydro-4H-phenalenyl)carbamoyl]pyridine-2-carboxylic acid | 0.149 g, yield: 96% | CC12CCCC3=CC=C(C(CCC1)=C32)NC(=O)C=3C=CC(=NC3)C(=O)O | C21H22N2O3
